US09034899B2
A mixture of 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline (1.0 g mg, 2.3 mmol), 4-bromobenzamide (690 mg, 3.45 mmol) and cesium carbonate (2.25 g, 6.9 mmol) in water (6 mL) and N,N-dimethylformamide (20 mL) was degassed with argon and then [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (88 mg, 0.12 mmol) was added. The mixture was degassed again and then heated to 90° C. for 2 hours. The mixture was partitioned between water and ethyl acetate (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was partially purified by column chromatography (7:3 hexanes/ethyl acetate to ethyl acetate, then ethyl acetate to 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to give 4-(4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)benzamide (423 mg, 43%) as a brown solid: ESI MS m/z 429 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | 2.3 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)B1OC(C(O1)(C)C)(C)C)C | C22H25BCl2FNO2
reactant | 4-bromobenzamide | 3.45 mmol, 690 mg | BrC1=CC=C(C(=O)N)C=C1 | C7H6BrNO
reactant | cesium carbonate | 6.9 mmol, 2.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 6 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(4-(3,4-dichlorophenyl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)benzamide | 423 mg, 43% | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=C(C=C12)F)C1=CC=C(C(=O)N)C=C1)C | C23H19Cl2FN2O
